US06723735B1
A mixture of 3-(6-bromoimidazo[4,5-b]pyridin-3-yl)phenol (2.32 g, 8 mmol), 3-furanboronic acid (1.43 g, 12.8 mmol), potassium phosphate (3.4 g, 16 mmol) and tetrakis(triphenylphosphine)palladium(0) (370 mg) in degassed N,N-dimethylformamide (12 ml) was heated at 80° C. for 20 hours. After cooling to ambient temperature the mixture was dissolved in 3N sodium hydroxide and extracted with dichloromethane, then with ether. The aqueous phase was adjusted to pH 7 with concentrated hydrochloric acid and the resulting solid collected by filtration, washed with water and dried under high vacuum to afford 3-[6-(furan-3-yl)imidazo[4,5-b]pyridin-3-yl]phenol as a cream-coloured solid (2.2 g, 99%); δH (400 MHz, d6-DMSO) 6.86 (1H, ddd, J 8, 2 and 1), 7.15 (1H, s), 7.33-7.45 (3H, m), 7.81 (1H, s), 8.35 (1H, s), 8.46 (1H, d, J 2), 8.54 (1H, d, J 2), 8.91 (1H, s), 9.94 (1H, br s); m/z (ES+) 278 (M++H).

reactant | 3-(6-bromoimidazo[4,5-b]pyridin-3-yl)phenol | 8 mmol, 2.32 g | BrC=1C=C2C(=NC1)N(C=N2)C=2C=C(C=CC2)O | C12H8BrN3O
reactant | 3-furanboronic acid | 12.8 mmol, 1.43 g | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | potassium phosphate | 16 mmol, 3.4 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | sodium hydroxide | 3N | [OH-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 370 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[6-(furan-3-yl)imidazo[4,5-b]pyridin-3-yl]phenol | 2.2 g, 99% | O1C=C(C=C1)C=1C=C2C(=NC1)N(C=N2)C=2C=C(C=CC2)O | C16H11N3O2
